US04335055
The procedure described in Example 1 is followed, except that 16.55 g (0.1 mol) of 4-cyanobenzoyl chloride, 13.02 g (0.125 mol) of styrene, 35.37 g (0.1 mol) of tri-n-octylamine, 50 ml of ethyl butyrate as the solvent and 0.0575 g (0.0001 mol) of bis-(dibenzylideneacetone)-palladium(O) are used. After a reaction time of 2 hours at 100° C., 5.5 g (0.0268 mol) of 4-cyanostilbene, corresponding to a yield of 26.8% of theory, are obtained; melting point 119° C.

reactant | 4-cyanobenzoyl chloride | 0.1 mol, 16.55 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | styrene | 0.125 mol, 13.02 g | C=CC1=CC=CC=C1 | C8H8
reactant | tri-n-octylamine | 0.1 mol, 35.37 g | C(CCCCCCC)N(CCCCCCCC)CCCCCCCC | C24H51N
solvent | ethyl butyrate | 50 ml | C(CCC)(=O)OCC | C6H12O2
product | 4-cyanostilbene | 0.0268 mol, 5.5 g, yield of 26.8% | C(#N)C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H11N
